US06300334B1
1-(Cyclopropylmethyl)-6-[1-hydroxy-1-(1-methyl-1Hbenzimidazol-2-yl)methyl]-3-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione
The title compound was prepared from 3-Methyl-1-(cyclopropylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (Example 32 step a) and 1-methylbenzimidazole-2-carboxaldehyde following the method of Example 1 step d.

reactant | 3-Methyl-1-(cyclopropylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | CN1C(N(C2=C(C1=O)C=CS2)CC2CC2)=O | C11H12N2O2S
reactant | 1-methylbenzimidazole-2-carboxaldehyde | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
product | 1-(Cyclopropylmethyl)-6-[1-hydroxy-1-(1-methyl-1Hbenzimidazol-2-yl)methyl]-3-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C2=C1SC(=C2)C(C2=NC1=C(N2C)C=CC=C1)O)=O)C)=O | C20H20N4O3S
